Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right scrotal pain
 
Major Surgical or Invasive Procedure:
___: Scrotal exploration, right hydrocelectomy

 
History of Present Illness:
Patient is a ___ man with a history of diabetes, high blood
pressure, now presenting to the ___ ED as a transfer from an
outside hospital emergency department where he was seen for 
right
testicular pain and found to have a complex appearing collection
in the right scrotum adjacent to left testicle. 

His problems began on ___ when he presented to this
outside ED with right testicular pain, nausea and abdominal 
pain.
He was given a clinical diagnosis of right sided 
epidimo-orchitis
and was discharged with levofloxacin. Over the next 2 days
however he experienced worsening right scrotal pain which was
associated with swelling, redness and warmth. As a result of 
this
he returned to the outside hospital ED today and was scanned 
with
results showing an approximately 2cm enhancing fluid collection
immediately inferior to the right testicle. 

Endorses chills, no fevers. No other urinary symptoms. Endorses
nausea and vomiting. No chest pain or shortness of breath. NO
significant urologic history. NO history of kidney stones. NO
history of recurrent UTIs. He does report having quite poor 
blood
sugar control for the past week. 

 
Past Medical History:
IDDM
Legally blind
Bipolar disorder
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Denies family history of GU malignancies. 
No family history of bleeding disorders or hemophilia
 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft
Scrotal incision c/d/i, decreased erythema on scrotum compared 
to prior
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation

 
Brief Hospital Course:
This patient was admitted to Dr. ___ service for 
post operative management following surgical exploration of 
scrotum on ___. 

No concerning intraoperative events occurred; please see 
dictated operative note for details.  The patient tolerated the 
procedure well and was recovered in the PACU before transfer to 
the general surgical floor.  The post-op course was 
uncomplicated.  

The patient voided without difficulty and pain was controlled on 
oral pain medications. He remains afebrile with normal range 
vital signs. At discharge, patient's pain was well controlled 
with oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty. 

Incision at discharge without erythema or hematoma. He was given 
a 2 week course of ciprofloxacin for epididimytis. He will 
follow-up with his urologist as directed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: ___
Fingersticks: QAC and HS

2. Sertraline 100 mg PO DAILY 
3. Divalproex (DELayed Release) 250 mg PO BID 
4. Metoclopramide 10 mg PO QIDACHS 
5. Atorvastatin 40 mg PO QPM 
6. Quinapril 20 mg PO DAILY 
7. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Divalproex (DELayed Release) 250 mg PO BID 
3. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: ___
Fingersticks: QAC and HS

4. Metoclopramide 10 mg PO QIDACHS 
5. Quinapril 20 mg PO DAILY 
6. Sertraline 100 mg PO DAILY 
7. TraZODone 100 mg PO QHS 
8. Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
Please take with stool softener like Colace to prevent 
constipation. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
10. Ibuprofen 800 mg PO Q8H:PRN Pain 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0
11. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0
12. Docusate Sodium 100 mg PO BID 
While taking narcotic pain medications to avoid constipation.  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epididimo-orchitis with reactive hydrocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-over the next several days you may experience some increased 
swelling. This may be accompanied by discoloration (ecchymosis) 
involving the phallus and the scrotum. This is normal and will 
gradually resolve.

-Please remove the surgical dressing over penis and/or under 
scrotum on post-operative day two: no further wound care is 
needed and you may leave the wound open to air. Wear 
comfortable, tight briefs or boxer-briefs for support--they 
should be cotton and/or breathable
-Complete a 7 day course of antibiotics as directed 

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision. 

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including sexual).

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is 4gm, note that narcotic pain medication also contains 
Tylenol (acetaminophen). You will also be given a prescription 
for ibuprofen which will help with the pain and swelling.  

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative

-Ok to ice the scrotum. This can be done with 20 minutes of ice 
on and 20 minutes off. This will help reduce the pain and 
swelling.

-Resume all of your home medications.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___